data/oMe_Silver.jsonl
{"reaction_id": "NR-100_1-c1ccccc1","level": "medium","name": "Haloform Reaction","reactants_smiles": ["C(=O)(C)c1ccccc1","BrBr","[OH-]"],"products_smiles": ["C(=O)(O)c1ccccc1","C(Br)(Br)Br"],"conditions": "Br2, NaOH","mechanism_step_nums": 10,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(=C)c1ccccc1","step_weight": 0,"rationale": "Strong base deprotonates the acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl."},{"step": 2,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=O)(CBr)c1ccccc1","step_weight": 0,"rationale": "The electron-rich enolate α-carbon attacks electrophilic Br2, favored by the polarization of the Br–Br bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(=CBr)c1ccccc1","step_weight": 0,"rationale": "Base again deprotonates the remaining α-hydrogen, which is more acidic due to the inductive effect of the bromine substituent."},{"step": 4,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=O)(C(Br)Br)c1ccccc1","step_weight": 0,"rationale": "The enolate formed attacks Br2, with electron withdrawal by the first bromine accelerating further halogenation."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(=C(Br)Br)c1ccccc1","step_weight": 0,"rationale": "Further deprotonation occurs as the α-hydrogen acidity increases with two bromines inductively withdrawing electron density."},{"step": 6,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=O)(C(Br)(Br)Br)c1ccccc1","step_weight": 0,"rationale": "The highly activated enolate rapidly undergoes electrophilic bromination to give the tribromomethyl ketone."},{"step": 7,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(O)(C(Br)(Br)Br)c1ccccc1","step_weight": 0,"rationale": "Hydroxide attacks the carbonyl carbon, favored by the strong electrophilicity from the adjacent tribromomethyl group."},{"step": 8,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(O)c1ccccc1.[C-](Br)(Br)Br","step_weight": 0,"rationale": "The tetrahedral intermediate collapses, expelling the tribromomethyl anion, a good leaving group stabilized by three bromines."},{"step": 9,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(Br)(Br)Br.C(=O)([O-])c1ccccc1","step_weight": 0,"rationale": "The tribromomethyl anion abstracts a proton from water or solvent due to its strong basicity, forming bromoform."},{"step": 10,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(O)c1ccccc1","step_weight": 0,"rationale": "The carboxylate intermediate is protonated under workup conditions to yield the carboxylic acid product."}],"description": "In basic conditions, the methyl ketone undergoes sequential α-bromination via enolate intermediates, driven by the electron-withdrawing carbonyl and strong electrophilicity of Br2. Complete halogenation facilitates nucleophilic attack by hydroxide, leading to cleavage and formation of carboxylate and bromoform as stable products."}
{"reaction_id": "NR-139_1-CC(C)=C_2-CC_3-c1cnc2ccccc2c1_4-c1c(F)c(F)c(F)c(F)c1F","name": "Markó-Lam Deoxygenation","level": "medium","reactants_smiles": ["C(OC(=O)c1c(F)c(F)c(F)c(F)c1F)(CC(C)=C)(CC)(c1cnc2ccccc2c1)"],"products_smiles": ["C(CC(C)=C)(CC)(c1cnc2ccccc2c1)"],"conditions": "SmI2, HMPA","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "C(O[C]([O][Sm](I)I)c1c(F)c(F)c(F)c(F)c1F)(CC(C)=C)(CC)(c1cnc2ccccc2c1)","rationale": "SmI2 is a strong single-electron donor; coordination to the carbonyl oxygen and electron transfer generate a radical anion stabilized by resonance with the carbonyl group."},{"step": 2,"type": "elimination","subtype": "radical_elimination","intermediate_smiles": "[C](CC(C)=C)(CC)(c1cnc2ccccc2c1)","rationale": "The radical anion undergoes C–O bond cleavage because the alkoxy leaving group is stabilized by Sm(III) coordination, favoring radical elimination."},{"step": 3,"type": "substitution","subtype": "radical_substitution","intermediate_smiles": "C(CC(C)=C)(CC)(c1cnc2ccccc2c1)","rationale": "The carbon-centered radical abstracts a hydrogen atom from the solvent or SmI2–HMPA complex, driven by formation of a strong C–H bond and radical quenching."}],"description": "SmI2 mediates a single-electron reduction of the ester, generating a radical anion that fragments to release the alkoxy radical. Subsequent elimination yields a carbon-centered radical, which abstracts hydrogen to give the fully deoxygenated product under mild, reductive conditions."}
